* Drummer One — Tom 1 voice (SPICE netlist for LTSpice/ngspice)
* f0 = 228 Hz (formula-derived, SPICE-confirmed)
*
* Bridged-T resonator: in [─── Rb ───] out
*                          \        /
*                         C1     C2
*                          \    /
*                           tap
*                            |
*                           Rt
*                            |
*                           gnd

V1   in  0   AC 1
Rb   in  out  4.7k
C1   in  tap  100n
C2   tap out  220n
Rt   tap 0    4.7k
Rl   out 0    1Meg

.ac dec 200 20 30k
.print ac vdb(out)
.options nopage
.end
